US06511994B2
Step 1: 1-Chloro-5,7-nonanedione
To a suspension of NaH (60% dispersion in mineral oil: 8.88 g) in THF (250 mL) was added a mixture of 2-butanone (7.98 g) and methyl 5-chlorovalerate (50.0 g) in THF (100 mL) dropwise via cannula at 0° C. The mixture was stirred at 0° C. for 10 min and at rt for 24 h. After the reaction was quenched with 2 N—HCl (200 mL), the aqueous layer was extracted with EtOAc (3×). Concentration of the combined organic phase gave a brown colored oil, which was purified by fractional vacuum distillation. The title compound was collected in the temperature range between 95° C. and 110° C. at 10 mmHg. 1H NMR (500 MHz, CDCl3) δ 1.14 (t, 3H, J=7.4 Hz), 1.65-1.90 (m, 4H), 2.30-2.60 (m, 4H), 3.50-3.60 (m, 2H), 5.51 (s, 1H).

reactant | NaH | 8.88 g | [H-].[Na+]
reactant | 2-butanone | 7.98 g | CC(CC)=O | C4H8O
reactant | methyl 5-chlorovalerate | 50.0 g | ClCCCCC(=O)OC | C6H11ClO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-Chloro-5,7-nonanedione | ClCCCCC(CC(CC)=O)=O | C9H15ClO2
